US07820658B2
2-Amino-4-chloro-6-(2,4-dimethyl-phenyl)-pyrimidine-5-carbaldehyde
Aqueous potassium phosphate was added to a suspension of 2,4-dimethylbenzene boronic acid and 2-amino-4,6-dichloro-5-pyrimidinecarbaldehyde (3 eq) in 1,4-dioxan, under a nitrogen atmosphere. Dichloro bis(triphenylphosphine)palladium (II) (cat.) was added and the mixture heated, ˜100° C., for ˜90 mins. The resulting mixture was allowed to cool and dichloromethane added, the mixture was washed with water and saturated aqueous sodium chloride solution. The solution was dried over anhydrous sodium sulphate and concentrated to a pale yellow solid. The crude solid was purified by column chromatography on silica eluting with mixtures of diethyl ether and hexane.

reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 2,4-dimethylbenzene boronic acid | CC1=C(C=CC(=C1)C)B(O)O | C8H11BO2
reactant | 2-amino-4,6-dichloro-5-pyrimidinecarbaldehyde | 3 eq | NC1=NC(=C(C(=N1)Cl)C=O)Cl | C5H3Cl2N3O
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | 1,4-dioxan | O1CCOCC1 | C4H8O2
catalyst | Dichloro bis(triphenylphosphine)palladium (II) | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | 2-Amino-4-chloro-6-(2,4-dimethyl-phenyl)-pyrimidine-5-carbaldehyde | NC1=NC(=C(C(=N1)Cl)C=O)C1=C(C=C(C=C1)C)C | C13H12ClN3O
